US07348017B2
1N potassium hydroxide (46 ml) was added to a solution of methyl 2-{4-[(3,7-dimethy-2,6-octadienyl)oxy]phenyl}acetate (9.46 g, 31.28 mmol) in methanol (70 ml) and refluxed for 1 hour. The mixture, with 3N hydrochloric acid (50 ml) added thereto, was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over MgSO4, and then concentrated. The residue was purified by recrystallization (ethyl acetate/hexane), to give 2-{4-[(3,7-dimethyl-2,6-octadienyl)oxy]phenyl}acetic acid (5.50 g, 61%).

reactant | potassium hydroxide | 1N, 46 ml | [OH-].[K+]
reactant | methyl 2-{4-[(3,7-dimethy-2,6-octadienyl)oxy]phenyl}acetate | 31.28 mmol, 9.46 g | CC(=CCOC1=CC=C(C=C1)CC(=O)OC)CCC=C(C)C | C19H26O3
reactant | hydrochloric acid | 3N, 50 ml | Cl | ClH
solvent | methanol | 70 ml | CO | CH4O
product | 2-{4-[(3,7-dimethyl-2,6-octadienyl)oxy]phenyl}acetic acid | 5.50 g, 61% | CC(=CCOC1=CC=C(C=C1)CC(=O)O)CCC=C(C)C | C18H24O3
